US07846960B2
3-(2-{4-[4-Isopropyl-2-(2-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-vinyl)-benzoic Acid
To a solution of 3-(2-{4-[4-isopropyl-2-(2-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-vinyl)-benzoic acid methyl ester (136 mg, 0.25 mmol) in 1,4-dioxane (7 mL) is added 2N LiOH/H2O (3 mL). The reaction mixture is stirred at 50° C. overnight. The solvent is evaporated and the residue is partitioned between EtOAc and 1N HCl. The layers are separated and the organic phase is washed with water and concentrated to give the title compound (129 mg, 97%). LC-ES-MS m/e 521 (M+1), 100%.

reactant | 3-(2-{4-[4-isopropyl-2-(2-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-vinyl)-benzoic acid methyl ester | 0.25 mmol, 136 mg | COC(C1=CC(=CC=C1)C=CC1=C(C=C(C=C1)OCC=1N(N=CC1C(C)C)C1=C(C=CC=C1)C(F)(F)F)C)=O | C31H29F3N2O3
reactant | LiOH H2O | 2N, 3 mL | [Li+].[OH-].O
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 3-(2-{4-[4-Isopropyl-2-(2-trifluoromethyl-phenyl)-2H-pyrazol-3-ylmethoxy]-2-methyl-phenyl}-vinyl)-benzoic Acid | 129 mg, 97% | C(C)(C)C1=C(N(N=C1)C1=C(C=CC=C1)C(F)(F)F)COC1=CC(=C(C=C1)C=CC=1C=C(C(=O)O)C=CC1)C | C30H27F3N2O3
